US08669234B2
6-[2-(6-Bromo-naphthalen-2-yl)-2-oxo-ethylcarbamoyl]-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester
5-Aza-spiro[2.4]heptane-5,6-dicarboxylic acid 5-benzyl ester (2.217 g, 7.66 mmol) was dissolved in MeOH (30 mL) and LiOH (1 M in H2O, 15 mL, 15 mmol) was added. After stirring for 15 hours at room temperature, the reaction mixture was poured into 10% HCl and the aqueous phase was extracted 3× with DCM. The combined organics were dried over MgSO4, filtered and concentrated. The residue was treated with MeCN (40 mL), Et3N (1.2 mL, 8.4 mmol) and 2-Bromo-1-(6-bromo-naphthalen-2-yl)-ethanone and the mixture was stirred at room temperature for 20 hours before being filtered over CELITE and concentrated. The resulting oil was dissolved in the minimum amount of DCM and EtOAc (30 mL) was added causing the product to precipitate. The mixture was cooled to 0° C. then the solid was filtered off and rinsed with EtOAc giving clean product (4.00 g, 100%).

reactant | 5-Aza-spiro[2.4]heptane-5,6-dicarboxylic acid 5-benzyl ester | 7.66 mmol, 2.217 g | C(C1=CC=CC=C1)OC(=O)N1CC2(CC2)CC1C(=O)O | C15H17NO4
reactant | LiOH | 15 mmol, 1 M, 15 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
reactant | Et3N | 8.4 mmol, 1.2 mL | CCN(CC)CC | C6H15N
reactant | 2-Bromo-1-(6-bromo-naphthalen-2-yl)-ethanone | BrCC(=O)C1=CC2=CC=C(C=C2C=C1)Br | C12H8Br2O
solvent | MeOH | 30 mL | CO | CH4O
solvent | MeCN | 40 mL | CC#N | C2H3N
product | 6-[2-(6-Bromo-naphthalen-2-yl)-2-oxo-ethylcarbamoyl]-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2(CC2)CC1C(NCC(=O)C1=CC2=CC=C(C=C2C=C1)Br)=O | C27H25BrN2O4
